US05047554
1.63 g (10.0 mmoles) of 4-chloro-2-thiophenecarboxylic acid (prepared according to Iriarte, J., et al., J. Het. Chem. 13:393 (1976)) was dissolved in 10 ml of thionyl chloride and heated to reflux. After refluxing for 1.5 hours excess thionyl chloride was evaporated, leaving 1.88 g of crude 4-chloro-2-thiophenecarbonyl chloride as a dark brown oil. This acid chloride was dissolved in 10 ml of N,N-dimethylformamide and slowly added to a cooled (ice-water) 40 ml N,N-dimethylformamide solution of 1.75 g (8.33 mmoles) 5-chloro-2-oxindole-1-carboxamide and 3.05 g (25.0 mmoles) of 4-(N,N-dimethylamino)pyridine. The reaction was complete in 1 hour. The mixture was poured into 100 ml of 1N hydrochloric acid causing a precipitate to form. The crude solid was filtered, dried and recrystallized to give 1.89 g (5.3 mmoles, 64% yield) of title compound as yellow needles, m.p. 212°-214° C. (2-butanone).

reactant | 4-chloro-2-thiophenecarboxylic acid | 10.0 mmoles, 1.63 g | ClC=1C=C(SC1)C(=O)O | C5H3ClO2S
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloro-2-thiophenecarbonyl chloride | 1.88 g | ClC=1C=C(SC1)C(=O)Cl | C5H2Cl2OS
